US04874877
(R)-2-Hydroxy-4-(methylthio)butyric Acid
D-Methionine (100 g, 0.67 mol) was dissolved in 600 ml of 10% H2SO4 and cooled to 0°-5° C. A solution of NaNO2 (58 g, 0.84 mol) in 100 ml of H2O, also chilled to 0°-5° C., was added dropwise over 1.5 hours, maintaining the temperature of the reaction mixture at 0° C. or less by means of an ice water bath. After stirring for 18 hours at room temperature, the mixture was extracted 9×200 ml ethyl acetate. The organic extracts were combined, dried over MgSO4, and stripped to yield 10.1 g of title product as oil; tlc Rf 0.15 (ethyl acetate), 0.08 (1:1 hexane:ethyl acetate).

reactant | D-Methionine | 0.67 mol, 100 g | N[C@H](CCSC)C(=O)O | C5H11NO2S
reactant | NaNO2 | 0.84 mol, 58 g | N(=O)[O-].[Na+]
solvent | H2SO4 | 600 ml | OS(=O)(=O)O | H2O4S
solvent | H2O | 100 ml | O | H2O
product | (R)-2-Hydroxy-4-(methylthio)butyric Acid | 10.1 g | O[C@@H](C(=O)O)CCSC | C5H10O3S
